US07589076B2
2,4-Dibromophenyl 4-(prop-2-ynyl)piperidine-1-carboxylate.
2,4-Dibromophenol (7.45 g, 29.6 mmol) was added as a solution in THF and dimethylaniline to a mixture of triphosgene (2.849 g, 9.6 mmol) in THF according to general procedure 3. Yield=6.09 g, 68%. m/z MH+=402.22. HPLC rt=12.49 min.

reactant | 2,4-Dibromophenol | 29.6 mmol, 7.45 g | BrC1=C(C=CC(=C1)Br)O | C6H4Br2O
reactant | dimethylaniline | CN(C1=CC=CC=C1)C | C8H11N
reactant | triphosgene | 9.6 mmol, 2.849 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | THF | C1CCOC1 | C4H8O
product | 2,4-Dibromophenyl 4-(prop-2-ynyl)piperidine-1-carboxylate | C(C#C)C1CCN(CC1)C(=O)OC1=C(C=C(C=C1)Br)Br | C15H15Br2NO2
